US08389509B2
1-Phenyl-5-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid (2 g, 7.81 mmol), HOBT (1.315 g, 8.59 mmol) and EDC (1.646 g, 8.59 mmol) were dissolved in DMF (18 mL) under nitrogen at room temperature. The resulting clear, pale yellow solution was stirred for 20 minutes, then N-hydroxy-4-(hydroxymethyl)benzimidamide, Int.2, (1.297 g, 7.81 mmol) was added in several portions. The reaction was placed in an oil bath preheated to 140° C. for 10 hours. The reaction was cooled to room temperature, poured into water (150 mL), stirred vigorously and placed in a sonicator bath for 1 hour. The solids were collected by filtration, washed with water, air dried and then placed under vacuum to give (4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)methanol (2.5 g, 6.47 mmol) as a very light yellow solid. The compound had an HPLC retention time=3.76 min.−Column: CHROMOLITH® SpeedROD 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.2% H3PO4; Solvent B=90% MeOH, 10% H2O, 0.2% H3PO4. LC/MS M+1=387.1 1H NMR (500 MHz, MeOD) δ ppm 4.70 (s, 2H), 7.53-7.57 (m, 4 H), 7.57-7.62 (m, 1H), 7.61 (d, J=6.4 Hz, 2H), 8.12 (d, J=8.2 Hz, 2H), 8.48 (s, 1H).

reactant | 1-Phenyl-5-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid | 7.81 mmol, 2 g | C1(=CC=CC=C1)N1N=CC(=C1C(F)(F)F)C(=O)O | C11H7F3N2O2
reactant | HOBT | 8.59 mmol, 1.315 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 8.59 mmol, 1.646 g
reactant | N-hydroxy-4-(hydroxymethyl)benzimidamide | ONC(C1=CC=C(C=C1)CO)=N | C8H10N2O2
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | (4-(5-(1-phenyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)methanol | 6.47 mmol, 2.5 g | C1(=CC=CC=C1)N1N=CC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(C=C1)CO | C19H13F3N4O2
